US07691886B2
5-Chloro-6-trifluoromethyl-1H-benzoimidazole-2-ylamine
318 mg (3 mmol) BrCN are dissolved in 0.6 ml acetonitrile and treated with 6 ml water. To this solution, 575 mg (2.73 mmol) 5-chloro-6-trifluoromethyl-benzene-1,2-diamine, dissolved in 6 ml methanol, are added dropwise within 30 min. After 2 hrs of stirring at room temperature, the reaction mixture is concentrated and the water solution extracted 2× with ethyl acetate. The combined organic phases where re-extracted 1× with water. The combined water phases where made alkaline (pH=8) with saturated NaHCO3-solution and extracted 2× with ethyl acetate. The combined organic phases where dried, filtered and evaporated.

reactant | BrCN | 3 mmol, 318 mg | BrC#N | CBrN
reactant | water | 6 ml | O | H2O
reactant | 5-chloro-6-trifluoromethyl-benzene-1,2-diamine | 2.73 mmol, 575 mg | ClC1=CC=C(C(=C1C(F)(F)F)N)N | C7H6ClF3N2
reactant | acetonitrile | 0.6 ml | C(C)#N | C2H3N
solvent | methanol | 6 ml | CO | CH4O
product | 5-Chloro-6-trifluoromethyl-1H-benzoimidazole-2-ylamine | ClC1=CC2=C(NC(=N2)N)C=C1C(F)(F)F | C8H5ClF3N3
